US08071651B2
d) tert Butyl [3-{[8-chloro-3-(3-methoxypropyl)imidazo[1,5-a]pyridin-6-yl]hydroxymethyl}-1-(4-isopropyl-5-oxotetrahydrofuran-2-yl)-4-methylpentyl]carbamate
A solution of 2.72 mmol of 5-(1-azido-3-{[8-chloro-3-(3-methoxypropyl)imidazo[1,5-a]pyridin-6-yl]hydroxymethyl}-4-methylpentyl)-3-isopropyldihydrofuran-2-one in 15 ml of tetrahydrofuran is mixed with 3.264 mmol of triphenylphosphine and 0.064 ml of water. The reaction solution is stirred at room temperature for 16 hours. Water (0.40 ml) is added, and the reaction mixture is then heated to reflux for 8 hours. The reaction mixture is cooled to room temperature, diluted with tert-butyl methyl ether (100 Ml) and washed with brine (50 ml), dried with sodium sulphate and evaporated. The residue is dissolved in 20 ml of tetrahydrofuran, mixed with 4.08 mmol of Hünig's base and 3.264 mmol of tert-butyl dicarbonate and left to stand at room temperature for 12 hours. The reaction solution is diluted with tert-butyl methyl ether (50 ml) and washed with 0.1M HCl and brine, dried with sodium sulphate and evaporated. The title compound is identified by means of the Rf from the residue by flash chromatography (SiO2 60 F).

reactant | 5-(1-azido-3-{[8-chloro-3-(3-methoxypropyl)imidazo[1,5-a]pyridin-6-yl]hydroxymethyl}-4-methylpentyl)-3-isopropyldihydrofuran-2-one | 2.72 mmol | N(=[N+]=[N-])C(CC(C(C)C)C(O)C=1C=C(C=2N(C1)C(=NC2)CCCOC)Cl)C2CC(C(O2)=O)C(C)C | C25H36ClN5O4
reactant | triphenylphosphine | 3.264 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Hünig's base | 4.08 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl dicarbonate | 3.264 mmol | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | tert-butyl methyl ether | 50 ml | COC(C)(C)C | C5H12O
solvent | Water | 0.40 ml | O | H2O
solvent | water | 0.064 ml | O | H2O
product | tert Butyl [3-{[8-chloro-3-(3-methoxypropyl)imidazo[1,5-a]pyridin-6-yl]hydroxymethyl}-1-(4-isopropyl-5-oxotetrahydrofuran-2-yl)-4-methylpentyl]carbamate | ClC=1C=2N(C=C(C1)C(C(CC(C1OC(C(C1)C(C)C)=O)NC(OC(C)(C)C)=O)C(C)C)O)C(=NC2)CCCOC | C30H46ClN3O6
